US05977178
To a solution of 2-(carboxymethoxymethyl)piperidine-1-carboxylic acid tert-butylester (225 mg, 0.82 mmol) in 5 ml of dichloromethane was added 1-hydroxy-7-azabenzotriazole (112 mg, 0.82 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (173 mg, 0.90 mmol) and the mixture was to stired for 30 min. N-Methyl-2-methylamino-N-(1-methylcarbamoyl-2-phenylethyl)-3-(2-naphthyl)propionamide (332 mg, 0.82 mmol) in dichloromethane (5mL) was added followed by diisopropylethylamine (0.14 ml, 0.82 mmol) and the mixture was stirred overnight at room temperature. The mixture was washed with water (5 ml) aqueous sodium bicarbonate (5 ml), water (2×5 ml), brine (5 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was chromatographed on silica (20 g) with ethyl acetate to give 416 mg of 2-([N-methyl-N{(1R)-1-(N-methyl-N-[(1R)-1-(methylcarbamoyl)-2-phenylethyl]carbamoyl)-2-(2-naphthyl)ethyl}carbamoyl]methoxymethyl)piperidin-1-carboxylic acid tert-butyl ester.

reactant | 2-(carboxymethoxymethyl)piperidine-1-carboxylic acid tert-butylester | 0.82 mmol, 225 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)COCC(=O)O | C13H23NO5
reactant | 1-hydroxy-7-azabenzotriazole | 0.82 mmol, 112 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.90 mmol, 173 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-Methyl-2-methylamino-N-(1-methylcarbamoyl-2-phenylethyl)-3-(2-naphthyl)propionamide | 0.82 mmol, 332 mg | CN(C(C(CC1=CC2=CC=CC=C2C=C1)NC)=O)C(CC1=CC=CC=C1)C(NC)=O | C25H29N3O2
reactant | diisopropylethylamine | 0.82 mmol, 0.14 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5mL | ClCCl | CH2Cl2
product | 2-([N-methyl-N{(1R)-1-(N-methyl-N-[(1R)-1-(methylcarbamoyl)-2-phenylethyl]carbamoyl)-2-(2-naphthyl)ethyl}carbamoyl]methoxymethyl)piperidin-1-carboxylic acid tert-butyl ester | 416 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)COCC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(NC)=O)C)=O)C)=O | C38H50N4O6
